US04709078
Methyl 2-(benzyloxy)-phenylacetate
15 g of methyl 2-hydroxyphenylacetate are refluxed with 11.4 g of benzyl chloride and 6.2 g of potassium carbonate in 90 ml of absolute methanol for 24 hours. The mixture is filtered, the filtrate is evaporated down, 400 ml of ether are added to the residue, and the solution is washed with water, dried with MgSO4 and evaporated down. Distillation of the residue at about 200° C. and under 18 mbar gives 15.5 g of pale oil.

reactant | methyl 2-hydroxyphenylacetate | 15 g | OC1=C(C=CC=C1)CC(=O)OC | C9H10O3
reactant | benzyl chloride | 11.4 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | potassium carbonate | 6.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 90 ml | CO | CH4O
product | Methyl 2-(benzyloxy)-phenylacetate | 15.5 g | C(C1=CC=CC=C1)OC1=C(C=CC=C1)CC(=O)OC | C16H16O3
